US07994336B2
2-Methyl-4-p-tolyl-thiazole-5-carboxylic acid methyl ester (2.67 mmol) and solid KOH (5.35 mmol) were dissolved in ethanol (1.04 mL) and water (0.26 mL) and heated under reflux for 3 hours. After cooling, the solvent was evaporated under reduced pressure and ice water was added to the residue, followed by washing with hexane. The aqueous layer was acidified with 1N aq. HCl and the crystals thus precipitated were collected by filtration, washed with water and then dried to provide 2-methyl-4-p-tolyl-thiazole-5-carboxylic acid.

reactant | 2-Methyl-4-p-tolyl-thiazole-5-carboxylic acid methyl ester | 2.67 mmol | COC(=O)C1=C(N=C(S1)C)C1=CC=C(C=C1)C | C13H13NO2S
reactant | KOH | 5.35 mmol | [OH-].[K+]
reactant | water | 0.26 mL | O | H2O
solvent | ethanol | 1.04 mL | C(C)O | C2H6O
product | 2-methyl-4-p-tolyl-thiazole-5-carboxylic acid | CC=1SC(=C(N1)C1=CC=C(C=C1)C)C(=O)O | C12H11NO2S
